US07595339B2
N-(4-Fluoro-benzyl)-4-(3-propyl-indole-1-sulfonyl)-benzamide
Add NaH 60% in mineral oil (0.080 g, 2.0 mmol) to a stirred solution of 3-propyl-indole (0.266 g, 1.67 mmol) in dr THF (25 mL) under N2. Stir the reaction mixture at ambient temperature for 45 min. Add 4-(4-fluoro-benzylcarbamoyl)-benzenesulfonyl chloride (0.547 g, 1.67 mmol) portion wise at ambient temperature. Stir the reaction mixture overnight at ambient temperature. Pour the reaction mixture into a two-phase mixture of EtOAc (150 mL) and saturated solution of NaHCO3 (50 mL). Separate the organic layer, wash with brine, separate and dry (MgSO4). Filter and evaporate the filtrate. Purify the residue on the chromatron using a 4 mm plate and eluting with a gradient hexane-EtOAC system to give 0.262 g (34%) of N-(4-fluoro-benzyl)-4-([3-propyl-indole-1-sulfonyl]-benzamide. Mass spectrum (m/e) M+1) 451.1.

reactant | NaH | [H-].[Na+]
reactant | 3-propyl-indole | 1.67 mmol, 0.266 g | C(CC)C1=CNC2=CC=CC=C12 | C11H13N
reactant | 4-(4-fluoro-benzylcarbamoyl)-benzenesulfonyl chloride | 1.67 mmol, 0.547 g | FC1=CC=C(CNC(=O)C2=CC=C(C=C2)S(=O)(=O)Cl)C=C1 | C14H11ClFNO3S
reactant | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
product | N-(4-Fluoro-benzyl)-4-(3-propyl-indole-1-sulfonyl)-benzamide | FC1=CC=C(CNC(C2=CC=C(C=C2)S(=O)(=O)N2C=C(C3=CC=CC=C23)CCC)=O)C=C1 | C25H23FN2O3S
